US07465815B2
(+)-N-((3R)-3-(4-Isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide
Using (+)-(3R)-3-(4-isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzofuran-5-amine obtained in Reference Example 141, the title compound was synthesized in the same manner as in Example 1. Yield: 93%. Melting point: 148-149° C. (ethyl acetate-hexane). [α]D20=+93.2° (c=0.54, chloroform).

reactant | (+)-(3R)-3-(4-isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzofuran-5-amine | C(C)(C)C1=CC=C(C=C1)[C@H]1COC2=C1C(=C(C(=C2)C)N)C | C19H23NO
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (+)-N-((3R)-3-(4-Isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide | Yield: 93% | C(C)(C)C1=CC=C(C=C1)[C@H]1COC2=C1C(=C(C(=C2)C)NC(CC(C)(C)C)=O)C | C25H33NO2
